US08877744B2
A solution of (R)-5-(5-(3,6-dihydro-2H-pyran-4-yl)-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one [Example 5a)] (256 mg, 693 μmol) in ethyl acetate (20 ml) was hydrogenated at room temperature for 16 hours using palladium on carbon (10%: 74 mg, 69.3 μmol) as the catalyst. The reaction mixture was filtered and evaporated to give the crude (R)-6,6-difluoro-5-(2-fluoro-5-(tetrahydro-2H-pyran-4-yl)phenyl)-5,7,7-trimethyl-1,4-oxazepan-3-one (244 mg, 95% yield) as a colorless oil. MS (ISP): m/z=372.2 [M+H]+.

reactant | (R)-5-(5-(3,6-dihydro-2H-pyran-4-yl)-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | O1CCC(=CC1)C=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C19H22F3NO3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 69.3 μmol, 74 mg | [Pd] | Pd
product | (R)-6,6-difluoro-5-(2-fluoro-5-(tetrahydro-2H-pyran-4-yl)phenyl)-5,7,7-trimethyl-1,4-oxazepan-3-one | 244 mg, 95% yield | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)C1CCOCC1)F)F | C19H24F3NO3
